US04070177
Preparation of α-[2-cyano-5-(2-chloro-4-trifluoromethyl phenoxy) phenoxy]butyronitrile
A 10 g of α-[2-bromo-5-(2-chloro-4-trifluoromethyl phenoxy) phenoxy]butyronitrile was dissolved in 20 ml of dimethylformamide. A 2.5 g of cuprous cyanide was added to the solution and the reaction was conducted at 145° to 150° C for 2 hours with stirring the mixture. The reaction mixture was cooled and was poured into suitable amount of aqueous solution of ferric chloride. The product was extracted with chloroform and the extract was washed with water and was dried. The chloroform was distilled off and the product was distilled at reduced pressure to obtain 7 g of the object compound having the boiling point of 202° to 207° C/2 mmHg.

reactant | α-[2-bromo-5-(2-chloro-4-trifluoromethyl phenoxy) phenoxy]butyronitrile | 10 g | BrC1=C(OC(C#N)CC)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C17H12BrClF3NO2
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | α-[2-cyano-5-(2-chloro-4-trifluoromethyl phenoxy) phenoxy]butyronitrile | 7 g | C(#N)C1=C(OC(C#N)CC)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C18H12ClF3N2O2
